US08076374B2
3-{4-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopentyl]-benzoylamino}-propionic acid
A solution of 3-{4-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-benzoylamino}-propionic acid (0.134 g, 0.250 mmol) in EtOH (3.0 mL) is treated with 10% palladium on carbon (26.7 mg), flushed with hydrogen, and stirred under 1 atm pressure overnight. The mixture is then filtered through Celite® and concentrated to provide 0.0350 g (26%) of the title compound as a clear syrup. MS (ES): 540.4 [M+H]+.

reactant | 3-{4-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-benzoylamino}-propionic acid | 0.250 mmol, 0.134 g | CC1=C(C(=CC(=C1)OCC1(CC=CC1)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C31H30F3NO4
solvent | EtOH | 3.0 mL | CCO | C2H6O
catalyst | palladium on carbon | 26.7 mg | [Pd] | Pd
product | 3-{4-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopentyl]-benzoylamino}-propionic acid | 0.0350 g, 26% | CC1=C(C(=CC(=C1)OCC1(CCCC1)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C31H32F3NO4
